US07018988B2
(3EZ,5S)-5-{[4-(1,3-benzodioxol-5-ylmethyl)-1-piperazinyl]carbonyl}-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-3-pyrrolidinone O-(tert-butyl)oxime
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(tert-butoxyimino)-2-pyrrolidinecarboxylic acid, 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride, and 1-(1,3-benzodioxol-5-ylmethyl)piperazine the title compound was obtained in 59% purity by LC/MS. MS(ESI+): m/z=595.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(tert-butoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC(C)(C)C)C(=O)O | C14H24N2O5
reactant | 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride | O=C1OC(=CC=C1C(=O)Cl)CCCCC | C11H13ClO3
reactant | 1-(1,3-benzodioxol-5-ylmethyl)piperazine | O1COC2=C1C=CC(=C2)CN2CCNCC2 | C12H16N2O2
product | (3EZ,5S)-5-{[4-(1,3-benzodioxol-5-ylmethyl)-1-piperazinyl]carbonyl}-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-3-pyrrolidinone O-(tert-butyl)oxime | C(C)(C)(C)ON=C1CN([C@@H](C1)C(=O)N1CCN(CC1)CC1=CC2=C(OCO2)C=C1)C(=O)C=1C(OC(=CC1)CCCCC)=O | C32H42N4O7
